US06872720B2
d) Toluene-4-sulfonic acid 3-tert-butyl-7-(2,5-difluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester
5-Acetyl-4-tert-butyl-3-(4-methylphenyl)sulfonyloxypyrazole (0.4 g, 1.19 mmol) was dissolved in xylene (20 ml) with 2,5-difluorobenzoic hydrazide (0.225 g, 1.31 mmol) and heated under reflux for 14 h. The xylene was removed by evaporation and replaced with Dowtherm A (15 ml) and heated at 180° C. for 4 h. The reaction mixture was allowed to cool to room temperature and poured directly onto a silica column and eluted with dichloromethane then 1-5% ethyl acetate/dichloromethane to give the required product (0.3 g) as a white solid. 1H NMR (360 MHz, CDCl3) δ 1.64 (9H, s), 2.42 (3H, s), 3.11 (3H, s), 7.11-7.83 (8H, m); MS (ES+) m/e 473 [MH]+.

reactant | 5-Acetyl-4-tert-butyl-3-(4-methylphenyl)sulfonyloxypyrazole | 1.19 mmol, 0.4 g | C(C)(=O)C1=C(C(=NN1)OS(=O)(=O)C1=CC=C(C=C1)C)C(C)(C)C | C16H20N2O4S
reactant | 2,5-difluorobenzoic hydrazide | 1.31 mmol, 0.225 g | FC1=C(C(=O)NN)C=C(C=C1)F | C7H6F2N2O
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Toluene-4-sulfonic acid 3-tert-butyl-7-(2,5-difluorophenyl)-4-methylpyrazolo[1,5-d][1,2,4]triazin-2-yl ester | 0.3 g | C(C)(C)(C)C=1C(=NN2C(=NN=C(C21)C)C2=C(C=CC(=C2)F)F)OS(=O)(=O)C2=CC=C(C=C2)C | C23H22F2N4O3S
